US04675397
To 70 ml of acetone are added 2.27 g of cis-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-4-(p-toluenesulfonyloxymethyl)-2-oxoazetidine and 4.95 g of sodium iodide, and the mixture is heated under reflux for 6 hours with stirring, and then concentrated in vacuo. To the residue are added methylene chloride and water to dissolve it, and the methylene chloride layer is separated and washed successively with an aqueous sodium thiosulfate solution and an aqueous sodium chloride solution. The methylene chloride layer is then dried over magnesium sulfate and the solvent is distilled off in vacuo. Ethyl acetate is added to the residue and the precipitated crystals are collected by filtration to give cis-1-(2,4-dimethoxybenzyl)-4-iodomethyl-3-phenylacetamido-2-oxoazetidine, m.p. 181°-182° C.

reactant | cis-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-4-(p-toluenesulfonyloxymethyl)-2-oxoazetidine | 2.27 g | COC1=C(CN2C([C@H]([C@H]2COS(=O)(=O)C2=CC=C(C=C2)C)NC(CC2=CC=CC=C2)=O)=O)C=CC(=C1)OC | C28H30N2O7S
reactant | sodium iodide | 4.95 g | [I-].[Na+]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | cis-1-(2,4-dimethoxybenzyl)-4-iodomethyl-3-phenylacetamido-2-oxoazetidine | COC1=C(CN2C([C@H]([C@H]2CI)NC(CC2=CC=CC=C2)=O)=O)C=CC(=C1)OC | C21H23IN2O4
